US07696352B2
To a solution of 5-chloro-thiophene-2-carboxylic acid (51 mg, 0.31 mmol), (1-(4-iodophenyl)-1H-pyrazol-3-yl)methanamine (78 mg, 0.26 mmol) and TEA (0.100 mL, 0.72 mmol) in DMF (3 mL), BOP (170 mg, 0.38 mmol) was added. The mixture was stirred at room temperature overnight. H2O and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo. The residue was purified by a preparative TLC plate (developed in EtOAc/hexane (35/65)) to give 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-3-yl)methyl)thiophene-2-carboxamide (60 mg).

reactant | 5-chloro-thiophene-2-carboxylic acid | 0.31 mmol, 51 mg | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | (1-(4-iodophenyl)-1H-pyrazol-3-yl)methanamine | 0.26 mmol, 78 mg | IC1=CC=C(C=C1)N1N=C(C=C1)CN | C10H10IN3
reactant | BOP | 0.38 mmol, 170 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | H2O | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-3-yl)methyl)thiophene-2-carboxamide | 60 mg | ClC1=CC=C(S1)C(=O)NCC1=NN(C=C1)C1=CC=C(C=C1)I | C15H11ClIN3OS
